US05888940
3-[4-Chloro-6-fluoro-2-propoxybenzothiazol-7-yl]-1-methyl-6-trifluoromethyl-2,4(1H, 3H)-pyrimidinedione (compound I.9)
1.7 g of methyl iodide were added dropwise at about 20° C. to a mixture of 200 ml of absolute ethyl methyl ketone, 1.7 g of potassium carbonate and 5.0 g of 3-[4-chloro-6-fluoro-2-propoxybenzothiazol-7-yl]-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione (compound I.8). Stirring was carried out for 12 hours at room temperature, after which the insoluble components were filtered off. The clear solution obtained was evaporated down. The residue was then taken up in water, after which the solution was neutralized with dilute hydrochloric acid. The product was then extracted with ethyl acetate. The ester phase was finally dried over sodium sulfate and then evaporated down. The purification of the crude product thus obtained was carried out by chromatography over silica gel (eluent: 9:1 cyclohexane/methyl tert-butyl ether). Yield: 1.0 g.

reactant | methyl iodide | 1.7 g | CI | CH3I
reactant | potassium carbonate | 1.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-[4-chloro-6-fluoro-2-propoxybenzothiazol-7-yl]-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione | 5.0 g | ClC1=CC(=C(C2=C1N=C(S2)OCCC)N2C(NC(=CC2=O)C(F)(F)F)=O)F | C15H10ClF4N3O3S
solvent | ethyl methyl ketone | 200 ml | CC(=O)CC | C4H8O
product | 3-[4-Chloro-6-fluoro-2-propoxybenzothiazol-7-yl]-1-methyl-6-trifluoromethyl-2,4(1H, 3H)-pyrimidinedione | ClC1=CC(=C(C2=C1N=C(S2)OCCC)N2C(N(C(=CC2=O)C(F)(F)F)C)=O)F | C16H12ClF4N3O3S
